US20010049371A1
3-(3-Ethoxy-4methoxyphenyl)-N-hydroxy-3-(3-nitrophthalimido)propionamide was prepared by the procedure of Example 1 from 3-(3-ethoxy-4-methoxyphenyl)-3-(3-nitrophthalimido)propanoic acid (3.64 g, 8.86 mmol), N,N′-carbonyldiimidazole (1.50 g, 9.25 mmol) and hydroxylamine hydrochloride (672 mg, 9.67 mmol) in tetrahydrofuran (20 mL) to afford 3-(3-ethoxy-4methoxyphenyl)-N-hydroxy-3-(3-nitrophthalimido)propionamide as a yellow solid (2.92 g, 77% yield): mp, 162.5-163.5° C.; 1H NMR (DMSO-d6) δ1.31 (t, J=6.9 Hz, 3H, CH3), 3.02 (dd, J=7.5, 14.8 Hz, 1H, CHH), 3.17 (dd, J=8.3, 14.8 Hz, 1H, CHH), 3.72 (s, 3H, CH3), 4.00 (q, J=6.9 Hz, 2H, CH2), 5.68 (t, J=7.7 Hz, 1H, NCH), 6.87-6.96 (m, 2H, Ar), 7.01 (br s, 1H, Ar), 8.05 (t, J=7.7 Hz, 1H, Ar), 8.15 (d, J=7.0 Hz, 1H, Ar), 8.27 (d, J=7.8 Hz, 1H, Ar), 8.82 (s, 1H, OH), 10.62 (br s, 1H, NH); 13C NMR (DMSO-d6) δ14.66, 33.92, 50.59, 55.46, 63.74, 111.69, 112.59, 119.89, 122.48, 126.91, 128.43, 130.42, 133.13, 136.35, 144.33, 147.67, 148.67, 162.99, 165.70, 165.87. Anal. Calcd for C20H19N3O8+0.4 mole ethyl acetate: C, 55.83; H, 4.86; N, 8.96. Found: C, 55.86; H, 4.94; N, 8.73.

reactant | 3-(3-ethoxy-4-methoxyphenyl)-3-(3-nitrophthalimido)propanoic acid | 8.86 mmol, 3.64 g | C(C)OC=1C=C(C=CC1OC)C(CC(=O)O)N1C(C=2C(C1=O)=C(C=CC2)[N+](=O)[O-])=O | C20H18N2O8
reactant | hydroxylamine hydrochloride | 9.67 mmol, 672 mg | Cl.NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(3-ethoxy-4methoxyphenyl)-N-hydroxy-3-(3-nitrophthalimido)propionamide | 2.92 g, 77% yield | C(C)OC=1C=C(C=CC1OC)C(CC(=O)NO)N1C(C=2C(C1=O)=C(C=CC2)[N+](=O)[O-])=O | C20H19N3O8
